US07812160B2
To a solution of methyl [4-methyl-2-(4-nitrobenzyl)-6-pyrrolidin-1-ylpyrimidin-5-yl]acetate (0.074 g, 0.20 mmol) in anhydrous THF (2 mL) was added Pd/C (10% Pd, 0.050 g) and the resulting black suspension was stirred under an atmosphere of hydrogen. After 1 hour; the reaction mixture was filtered through Celite and the filtrate was concentrated in vacuo to give methyl [2-(4-aminobenzyl)-4-methyl-6-pyrrolidin-1-ylpyrimidin-5-yl]acetate.

reactant | methyl [4-methyl-2-(4-nitrobenzyl)-6-pyrrolidin-1-ylpyrimidin-5-yl]acetate | 0.20 mmol, 0.074 g | CC1=NC(=NC(=C1CC(=O)OC)N1CCCC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C19H22N4O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.050 g | [Pd] | Pd
product | methyl [2-(4-aminobenzyl)-4-methyl-6-pyrrolidin-1-ylpyrimidin-5-yl]acetate | NC1=CC=C(CC2=NC(=C(C(=N2)C)CC(=O)OC)N2CCCC2)C=C1 | C19H24N4O2
